US07112397B2
Synthesis of 2-nitrobenzyl 6-(trimethoxysilyl)hexyl ether
A 20-ml eggplant type flask was purged with nitrogen, and charged with 2.5 g (10.7 mmol) of 5-hexenyl 2-nitrobenzyl ether, 1.56 g (12.8 mmol) of trimethoxysilane, and an infinitesimal amount of hydrogen hexachloroplatinate(IV) hexahydrate (H2PtCl6·6H2O), followed by stirring at 37° C. for 30 minutes. Thereafter, the bath temperature was raised to 100° C., and the reaction was completed in 2 hours. After the temperature was returned to room temperature, the reaction mixture was purified by vacuum distillation using a short path. From the second fraction (0.2 mmHg/123–125° C.), 1.98 g of the desired product was obtained in a 52% yield.

reactant | 5-hexenyl 2-nitrobenzyl ether | 10.7 mmol, 2.5 g | [N+](=O)([O-])C1=C(COCCCCC=C)C=CC=C1 | C13H17NO3
reactant | trimethoxysilane | 12.8 mmol, 1.56 g | CO[SiH](OC)OC | C3H10O3Si
catalyst | hydrogen hexachloroplatinate(IV) hexahydrate | [H+].[H+].O.O.O.O.O.O.Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | 2-nitrobenzyl 6-(trimethoxysilyl)hexyl ether | 1.98 g, 52% yield | CO[Si](CCCCCCOCC1=C(C=CC=C1)[N+](=O)[O-])(OC)OC | C16H27NO6Si
